US08044213B2
A mixture of 4.43 g (9.9 mmole) of 4-(3-chloro-phenyl)-2-(5-dimethoxymethyl-2-nitro-phenylamino)-thiazole-5-carboxylic acid amide (VI.2a), 80 mL of acetonitrile and 20 mL of 1 M hydrochloric acid was heated at 60 degrees for 2 hours. The mixture was diluted with 200 mL of ice-water. The precipitate was collected by filtration, washed with water, and air dried to give 3.3 g of 4-(3-chloro-phenyl)-2-(5-formyl-2-nitro-phenylamino)-thiazole-5-carboxylic acid amide (VI.2b) as an orange solid.

reactant | 4-(3-chloro-phenyl)-2-(5-dimethoxymethyl-2-nitro-phenylamino)-thiazole-5-carboxylic acid amide | 9.9 mmole, 4.43 g | ClC=1C=C(C=CC1)C=1N=C(SC1C(=O)N)NC1=C(C=CC(=C1)C(OC)OC)[N+](=O)[O-] | C19H17ClN4O5S
reactant | hydrochloric acid | 1 M, 20 mL | Cl | ClH
solvent | acetonitrile | 80 mL | C(C)#N | C2H3N
product | 4-(3-chloro-phenyl)-2-(5-formyl-2-nitro-phenylamino)-thiazole-5-carboxylic acid amide | 3.3 g | ClC=1C=C(C=CC1)C=1N=C(SC1C(=O)N)NC1=C(C=CC(=C1)C=O)[N+](=O)[O-] | C17H11ClN4O4S
